US08420816B2
(R)-N-(cyclopropylmethoxy)-2-(6-fluoro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanamide
To an 8 mL scintillation vial equipped for stirring was added (R)-2-(6-fluoro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoic acid (15 mg, 0.051 mmol). DMF (0.5 mL), O-(cyclopropylmethyl)hydroxylamine hydrochloride (6.4 mg, 0.051 mmol), HOBt (11.83 mg, 0.077 mmol), EDC (14.81 mg, 0.077 mmol) and N,N-dimethylpyridin-4-amine (9.44 mg, 0.077 mmol) were added and the solution was stirred at 25° C. for 4 h. The reaction mixture was purified via preparative mass trigger LC-MS (AcCN/H2O, 20-50%). The fractions were collected and lyophilized to afford the title compound as a white solid (5 mg, 23%). 1H NMR (400 MHz, CD3OD) δ 0.16-0.24 (m, 2 H) 0.39-0.55 (m, 2 H) 0.93 (d, J=6.57 Hz, 3 H) 1.05 (d, J=6.32 Hz, 3 H) 1.06-1.15 (m, 1 H) 2.53 (dt, J=11.24, 6.51 Hz, 1 H) 3.55-3.73 (m, 2 H) 4.94 (d, J=11.37 Hz, 1 H) 5.07 (d, J=19.20 Hz, 1 H) 5.46 (d, J=18.44 Hz, 1 H) 7.86 (s, 1 H) 8.17 (d, J=3.28 Hz, 1 H). [M+H] calc'd for C18H21FN4O3, 361; found, 361.4.

reactant | (R)-2-(6-fluoro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoic acid | 0.051 mmol, 15 mg | FC1=CN=C2C=3C(C(N(CC13)[C@@H](C(=O)O)C(C)C)=O)=CN2 | C14H14FN3O3
reactant | O-(cyclopropylmethyl)hydroxylamine hydrochloride | 0.051 mmol, 6.4 mg | Cl.C1(CC1)CON
reactant | HOBt | 0.077 mmol, 11.83 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.077 mmol, 14.81 mg
catalyst | N,N-dimethylpyridin-4-amine | 0.077 mmol, 9.44 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | (R)-N-(cyclopropylmethoxy)-2-(6-fluoro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanamide | 5 mg, 23% | C1(CC1)CONC([C@@H](C(C)C)N1CC=2C(=CN=C3C2C(C1=O)=CN3)F)=O | C18H21FN4O3
